US06455550B1
A solution of diisopropylamine (1.05 mL, 7.5 mmol) in THF (5 mL) was cooled to −10° C. and a solution of n-butyl lithium (2.9 mL, 7.25 mmol) in hexanes was added dropwise while maintaining the temperature below 0° C. After addition, the solution was stirred for 30 min at 0° C. The solution was cooled to −70° C. and a solution of methyl cyclobutane carboxylate (0.57 g, 5 mmol) in THF (2 mL) was added dropwise maintaining the internal temperature between −60 to −70° C. After addition, the reaction mixture was stirred for 30 min at −50 to −60° C. Then, a solution of 4-(1-methyltetrazol-5-yl)benzyl chloride (0.94 g, 4.5 mmol) in THF (5 mL) was added dropwise and the reaction mixture was stirred for 1 h at −60 to −70° C. Then, it was allowed to warm to room temperature and stirred overnight at which point TLC analysis indicated the absence of 4-(1-methyltetrazol-5-yl)benzyl chloride (Note: the product and 4-(1-methyltetrazol-5-yl)benzyl chloride has the same Rf value, however they were differentiated by spraying with PMA). The mixture was poured into a mixture of water (70 mL) and ethyl acetate (70 mL). An emulsion formed and was filtered through celite. The resulting two layers were separated and the aqueous layer was extracted with ethyl acetate (2×50 mL). The combined extracts were washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solution was concentrated under vacuum and the residue was purified by silica gel chromatography eluting with 1:2 ethyl acetate:hexane to give methyl 1-[[4-(1-methyltetrazol-5-yl)phenyl]methyl]cyclobutane carboxylate (0.42 g, 32%) as a syrup. HR MS: obs. mass, 301.1668. Calcd mass, 301.1664.

reactant | diisopropylamine | 7.5 mmol, 1.05 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 7.25 mmol, 2.9 mL | C(CCC)[Li]
reactant | methyl cyclobutane carboxylate | 5 mmol, 0.57 g | C1(CCC1)C(=O)OC | C6H10O2
reactant | 4-(1-methyltetrazol-5-yl)benzyl chloride | 4.5 mmol, 0.94 g | CN1N=NN=C1C1=CC=C(CCl)C=C1 | C9H9ClN4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 70 mL | O | H2O
product | methyl 1-[[4-(1-methyltetrazol-5-yl)phenyl]methyl]cyclobutane carboxylate | 0.42 g, 32% | CN1N=NN=C1C1=CC=C(C=C1)CC1(CCC1)C(=O)OC | C15H18N4O2
